US09029370B2
a) (S)-2-{4-[(4-Cyano-pyridine-2-carbonyl)-amino]-3-fluoro-phenyl}-morpholine-4-carboxylic acid tert-butyl ester
(−)-(S)-2-(4-Amino-3-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester (example 1 h, 70 mg, 236 μmol, Eq: 1.00), 4-cyanopicolinic acid (CAS 640296-19-1, 45.5 mg, 307 μmol, Eq: 1.3) and HBTU (134 mg, 354 μmol, Eq: 1.5) were dissolved in DMF (1.25 ml), treated with N-Methylmorpholin (71.7 mg, 77.9 μl, 709 μmol, Eq: 3) and stirred at r.t. for 17 h. The mixture was diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4, filtered off and concentrated under vacuo. The solid residue was diluted with a small volume of MeOH, and filtered, leading to 64 mg of a white solid.

reactant | (−)-(S)-2-(4-Amino-3-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester | 236 μmol, 70 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C1=CC(=C(C=C1)N)F | C15H21FN2O3
reactant | 4-cyanopicolinic acid | 307 μmol, 45.5 mg | C(#N)C1=CC(=NC=C1)C(=O)O | C7H4N2O2
reactant | HBTU | 354 μmol, 134 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-Methylmorpholin | 709 μmol, 77.9 μl, 71.7 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.25 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-2-{4-[(4-Cyano-pyridine-2-carbonyl)-amino]-3-fluoro-phenyl}-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C1=CC(=C(C=C1)NC(=O)C1=NC=CC(=C1)C#N)F | C22H23FN4O4
